US07585977B2
2-(1,1-Dioxo-2,3-dihydro-1H-1λ6-benzo[b]thiophen-5-yl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane
Dissolve 5-bromo-2,3-dihydro-benzo[b]thiophene 1,1-dioxide (2.0 g, 8.1 mmol) in DMSO (60 mL). Add bis(pinacolato)diboron (2.26 g, 8.9 mmol), PdCl2(dppf)-CH2Cl2 (330 mg, 0.41 mmol), and potassium acetate (KOAc, 2.38 g, 24.3 mmol). Flush the flask with N2, and then heat the reaction mixture to 80° C. with stirring. Continue to heat the reaction mixture for 3 hours, and then cool to room temperature. Add water (100 mL) and extract the aqueous layer with EtOAc (3×100 mL). Combine the organic layers and dry with Na2SO4, filter, concentrate and purify by flash column chromatography (silica gel, 10 to 50% ethyl acetate in hexanes) to give 1.4 g (59%) of the title compound.

reactant | 5-bromo-2,3-dihydro-benzo[b]thiophene 1,1-dioxide | 8.1 mmol, 2.0 g | BrC1=CC2=C(S(CC2)(=O)=O)C=C1 | C8H7BrO2S
reactant | bis(pinacolato)diboron | 8.9 mmol, 2.26 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 24.3 mmol, 2.38 g | C(C)(=O)[O-].[K+]
solvent | DMSO | 60 mL | CS(=O)C | C2H6OS
catalyst | PdCl2(dppf) CH2Cl2 | 0.41 mmol, 330 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 2-(1,1-Dioxo-2,3-dihydro-1H-1λ6-benzo[b]thiophen-5-yl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 1.4 g, 59% | O=S1(C2=C(CC1)C=C(C=C2)B2OC(C(O2)(C)C)(C)C)=O | C14H19BO4S
